US05840732
vi) Synthesis of 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione
To a solution of 339 mg (0.93 mmol) of 3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione and 90 μl (1.0 mmol) of n-butyraldehyde in 5 ml of ethanol, 10 μl (0.1 mmol) of piperidine was added, followed by refluxing for 1.5 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, hexane/ethyl acetate=2/1→1/2) to yield 310 mg (74.2%, light yellow oily substance) of the desired product.

reactant | 3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione | 0.93 mmol, 339 mg | N=1C=CN2C1C=CC=C2SCCC(CCN2C(SCC2=O)=O)(C)C | C17H21N3O2S2
reactant | n-butyraldehyde | 1.0 mmol, 90 μl | C(CCC)=O | C4H8O
reactant | piperidine | 0.1 mmol, 10 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione | C(CCC)=C1C(N(C(S1)=O)CCC(CCSC1=CC=CC=2N1C=CN2)(C)C)=O | C21H27N3O2S2
